US08211927B2
(R)-4-Chloro-N-(3-(hydroxyimino)cyclopentyl)-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamide cis/trans mix
A suspension of (R)-4-chloro-N-(3-oxocyclopentyl)-5-(4-(trifluoromethyl)phenyl) isoxazole-3-carboxamide (20 mg, 0.054 mmol), hydroxylamine hydrochloride (5 mg, 0.064 mmol), and sodium bicarbonate (7 mg, 0.083 mmol) in ethanol (2 mL) was heated to reflux overnight. The reaction mixture was diluted with ethanol/dichloromethane, filtered through a cotton plug and evaporated in vacuo. Purification by silica gel chromatography, eluting with 8% methanol in dichloromethane gave the title compound as a mixture of cis and trans isomers (10.5 mg, 0.027 mmol). MS (ESI) m/z (M+H+): 388.2/390.3

reactant | (R)-4-chloro-N-(3-oxocyclopentyl)-5-(4-(trifluoromethyl)phenyl) isoxazole-3-carboxamide | 0.054 mmol, 20 mg | ClC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)N[C@H]1CC(CC1)=O | C16H12ClF3N2O3
reactant | hydroxylamine hydrochloride | 0.064 mmol, 5 mg | Cl.NO
reactant | sodium bicarbonate | 0.083 mmol, 7 mg | C([O-])(O)=O.[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol dichloromethane | C(C)O.ClCCl
product | (R)-4-Chloro-N-(3-(hydroxyimino)cyclopentyl)-5-(4-(trifluoromethyl)phenyl)isoxazole-3-carboxamide | ClC=1C(=NOC1C1=CC=C(C=C1)C(F)(F)F)C(=O)N[C@H]1CC(CC1)=NO | C16H13ClF3N3O3
